US08981117B2
A mixture of ethyl 2-(bromomethyl)-6-nitrobenzoate and H—CH2-CH3-Compound D, triethyl amine in DMF is heated to reflux. The solvent is removed in vacuo. The crude mixture is purified by column chromatography to give (S)-2-(1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl)-7-nitroisoindolin-1-one. A mixture of (S)-2-(1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl)-7-nitroisoindolin-1-one and Pd/C in ethyl acetate is shaken under hydrogen. The suspension is filtered thru a pad of Celite. The solvent is removed in vacuo. The crude mixture is purified by column chromatography to give (S)-7-amino-2-(1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl)isoindolin-1-one.

reactant | (S)-2-(1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl)-7-nitroisoindolin-1-one | C(C)OC=1C=C(C=CC1OC)[C@@H](CS(=O)(=O)C)N1C(C2=C(C=CC=C2C1)[N+](=O)[O-])=O | C20H22N2O7S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | (S)-7-amino-2-(1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl)isoindolin-1-one | NC=1C=CC=C2CN(C(C12)=O)[C@H](CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC | C20H24N2O5S
